US06350771B1
A 1.4 M solution of methyllithium (31 ml) in ethyl ether was added to a stirred solution of 5-bromo-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylthio-1H-pyrazole-3-carbonitrile (17.67 g) in dry tetrahydrofuran (THF) at −65° C. over 15-minutes and allowed to warm to 0° C. over 3-hours. After recooling to −65° C., methyl iodide (3.06 ml) in THEF was added over 3 minutes, the mixture warmed to −20° C. over 1.5 hours, and then partitioned between aqueous ammonium chloride and dichloromethane. The organic phase was dried (magnesium sulfate), evaporated and purified by flash chromatography on silica gel eluting with hexane/methyl tert-butylether to give 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylthio-1H-pyrazole-3-carbonitrile (6.2 g) having a purity of 90.7 area percent by HPLC.

reactant | methyllithium | 31 ml | C[Li]
reactant | 5-bromo-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylthio-1H-pyrazole-3-carbonitrile | 17.67 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC | C12H5BrCl2F3N3S
reactant | methyl iodide | 3.06 ml | CI | CH3I
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-methyl-4-methylthio-1H-pyrazole-3-carbonitrile | 6.2 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C)SC)C#N | C13H8Cl2F3N3S
